US07678815B2
A microwave vial was charged with Pd2dba3-chloroform complex (0.09 g, 0.09 mmol), Xantphos (0.17 g, 0.30 mmol) and cesium carbonate (1.00 g, 3.06 mmol), sealed and flushed with argon. A solution of 5-amino-2-(2-methoxy-ethyl)-thiazole-4-carboxylic acid ethyl ester (0.40 g, 1.75 mmol) and 3-bromopyridine (0.28 g, 1.75 mmol) in dioxane (5.80 ml) was degassed by sonicating and bubbling with argon, then transferred to the reaction vial. After stirring at room temperature for 5 min, the reaction mixture was irradiated in a microwave oven at 150° C. for 10 min. The mixture was diluted with THF, filtered and the mother liquors evaporated. The residue was purified by flash chromatography (heptane/ethyl acetate/methanol) to yield 2-(2-methoxy-ethyl)-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid ethyl ester (0.18 g, 40%), MS (ISP): m/e=308.3 (M+H+).

reactant | Xantphos | 0.30 mmol, 0.17 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 3.06 mmol, 1.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-amino-2-(2-methoxy-ethyl)-thiazole-4-carboxylic acid ethyl ester | 1.75 mmol, 0.40 g | C(C)OC(=O)C=1N=C(SC1N)CCOC | C9H14N2O3S
reactant | 3-bromopyridine | 1.75 mmol, 0.28 g | BrC=1C=NC=CC1 | C5H4BrN
solvent | dioxane | 5.80 ml | O1CCOCC1 | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-(2-methoxy-ethyl)-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid ethyl ester | 0.18 g, 40% | C(C)OC(=O)C=1N=C(SC1NC=1C=NC=CC1)CCOC | C14H17N3O3S
